US08420690B2
f) 2-(2-amino-3-methyl-3-phenylbutyl)-1H-isoindole-1,3(2H)-dione
To a solution of 1,1-dimethylethyl {1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-methyl-2-phenylpropyl}carbamate (723 mg, 1.77 mmol) in CHCl3:MeOH (10:1, 55 mL) at RT was added 4M HCl in dioxane (10 mL). After stirring for 3 h at RT, the reaction solution was concentrated to a white solid (quant.): LCMS (ES) m/z 309 (M+H)+.

reactant | 1,1-dimethylethyl {1-[(1,3-dioxo-1,3-dihydro-2H-isoindol-2-yl)methyl]-2-methyl-2-phenylpropyl}carbamate | 1.77 mmol, 723 mg | O=C1N(C(C2=CC=CC=C12)=O)CC(C(C)(C1=CC=CC=C1)C)NC(OC(C)(C)C)=O | C24H28N2O4
reactant | HCl | 4M | Cl | ClH
solvent | CHCl3 MeOH | 55 mL | C(Cl)(Cl)Cl.CO
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 2-(2-amino-3-methyl-3-phenylbutyl)-1H-isoindole-1,3(2H)-dione | NC(CN1C(C2=CC=CC=C2C1=O)=O)C(C)(C1=CC=CC=C1)C | C19H20N2O2
